US07767675B2
Step 5. methyl 4-(3-amino-1,2,4-triazin-6-yl)benzoate
A solution of methyl 4-(3-chloro-1,2,4-triazin-6-yl)benzoate (180 mg, 0.721 mmol) and 2M of ammonia in isopropyl alcohol (5 ml, 10 mmol) was stirred at 25° C. for 3 h. The reaction was diluted with water, and the precipitate was filtered to give the desired product. LCMS: (M+H2O+H)=249.0.

reactant | methyl 4-(3-chloro-1,2,4-triazin-6-yl)benzoate | 0.721 mmol, 180 mg | ClC=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H8ClN3O2
reactant | ammonia | 2M | N | H3N
reactant | isopropyl alcohol | 10 mmol, 5 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | methyl 4-(3-amino-1,2,4-triazin-6-yl)benzoate | NC=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H10N4O2
